US08372970B2
Step 4: Synthesis of 2-(4-aminophenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester (5)
To 6-(4-aminophenyl)-thiomorpholine (0.25 g, 1.26 mmol) in anhydrous tetrahydrofuran (2.5 mL) was added di-tert-butyl dicarbonate (0.25 g, 1.14 mmol). The solution was stirred at room temperature for 1 h. After evaporation, the residue was purified by column chromatography using hexane:ethyl acetate (4:1->3:1->2:1). The title compound was obtained as a white crystalline solid (0.13 g, 0.42 mmol, 33%). ESMS m/z 317 (M+Na)+; 1H NMR (400 MHz, DMSO-d6) δ ppm 6.99 (d, J=8.3 Hz, 2H) 6.51 (d, J=8.3 Hz, 2H) 5.07 (s, 2H) 4.23 (d, J=13.6 Hz, 1H) 4.12 (br. s., 1H) 3.69 (dd, J=10.8, 2.8 Hz, 1H) 3.13 (br. s., 1H) 2.98 (br. s., 1H) 2.73 (td, J=12.7, 3.0 Hz, 1H) 2.56 (d, J=13.6 Hz, 1H) 1.40 (s, 9H).

reactant | 6-(4-aminophenyl)-thiomorpholine | 1.26 mmol, 0.25 g | NC1=CC=C(C=C1)C1SCCNC1 | C10H14N2S
reactant | di-tert-butyl dicarbonate | 1.14 mmol, 0.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 2-(4-aminophenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(SCC1)C1=CC=C(C=C1)N | C15H22N2O2S
